US07365085B2
a) (S)-(2-Chloro-3-trifluoromethyl-benzyl)-(2-phenyl-propyl)-amine
To a solution of (S)-2-phenyl propylamine (0.5 g, 3.7 mmol) in dry dichloromethane was added acetic acid followed by 2-chloro-3-trifluoromethylbenzaldehyde (1.1 g, 5.5 mmol) and sodium triacetoxyborohydride (1.5 g, 7.4 mmol). After the resulting mixture was stirred for 1.5 h at RT water was added to quench the reaction. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo. The crude mixture was purified by column chromatograph (Ethyl acetate:Hexane/25:75) to give the title compound as an oil (0.55 g, 45%). MS (ESI) 327.6 (M+H)+.

reactant | (S)-2-phenyl propylamine | 3.7 mmol, 0.5 g | C1(=CC=CC=C1)[C@@H](CN)C | C9H13N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | 5.5 mmol, 1.1 g | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | sodium triacetoxyborohydride | 7.4 mmol, 1.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (S)-(2-Chloro-3-trifluoromethyl-benzyl)-(2-phenyl-propyl)-amine | 0.55 g, 45% | ClC1=C(CNC[C@@H](C)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C17H17ClF3N
